US07834008B2
For n=1: (1S,2S)-2-[2-(4-Acetylamino-4-phenyl-piperidin-1-yl)-ethyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide
(1S,2S)-2-(2-Chloro-ethyl)-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide (91 mg, 0.22 mmol) is dissolved in acetonitrile (10 ml). Potassium iodide (73 mg, 0.44 mmol), potassium carbonate (91 mg, 0.66 mmol) and N-(4-Phenyl-piperidin-4-yl)-acetamide hydrochloride (67 mg, 0.26 mmol) are added. The reaction mixture is heated to reflux for 72 hours, then cooled to ambient temperature and concentrated in vacuo. The remanence is redissolved in ethyl acetate (15 ml), washed with water (10 ml), brine (10 ml), then dried over MgSO4, filtered and concentrated to an oil. The product is filtered through a plug of silica gel eluting with ethyl acetate:heptane:triethylamine (50:50:5) followed by ethyl acetate:ethanol:triethylamine (80:20:5) to furnish 70 mg (54%) of the title compound. LC/MS (m/z) 596.3 (M+H+).

reactant | (1S,2S)-2-(2-Chloro-ethyl)-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | 0.22 mmol, 91 mg | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)CCCl)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C20H19Cl3FNO
reactant | Potassium iodide | 0.44 mmol, 73 mg | [I-].[K+]
reactant | potassium carbonate | 0.66 mmol, 91 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(4-Phenyl-piperidin-4-yl)-acetamide hydrochloride | 0.26 mmol, 67 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)NC(C)=O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (1S,2S)-2-[2-(4-Acetylamino-4-phenyl-piperidin-1-yl)-ethyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | 70 mg, 54% | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)CCN2CCC(CC2)(C2=CC=CC=C2)NC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C33H36Cl2FN3O2
